US04937243
1-[3-Mercapto-6-methyl-4-[[[1-(S)-[(methylamino)carbonyl]-2-(4-methoxyphenyl)ethyl]amino]carbonyl]heptanoyl]-4-methylpiperazine (E19)
A solution of 1-[3-acetylmercapto-6-methyl-4-[[[1-(S)-[(methylamino)carbonyl]-2-(4-methoxyphenyl)ethyl]amino]-carbonyl]heptanoyl]-4-methylpiperazine (E18, Isomer A; 60 mg, 0.112 mmol) in methanol (5 ml) was purged with nitrogen and cooled in ice, then was treated with 35% aqueous ammonia (0.4 ml). After 6 h at room temperature, the solvents were evaporated in vacuo and the residue was triturated with hexane to give the title compound as a single isomer (Isomer A), mp 65°-68° C.

reactant | 1-[3-acetylmercapto-6-methyl-4-[[[1-(S)-[(methylamino)carbonyl]-2-(4-methoxyphenyl)ethyl]amino]-carbonyl]heptanoyl]-4-methylpiperazine | 0.112 mmol, 60 mg | C(C)(=O)SC(CC(=O)N1CCN(CC1)C)C(CC(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC)C(=O)NC | C27H42N4O5S
reactant | ammonia | 0.4 ml | N | H3N
solvent | methanol | 5 ml | CO | CH4O
product | 1-[3-Mercapto-6-methyl-4-[[[1-(S)-[(methylamino)carbonyl]-2-(4-methoxyphenyl)ethyl]amino]carbonyl]heptanoyl]-4-methylpiperazine | SC(CC(=O)N1CCN(CC1)C)C(CC(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC)C(=O)NC | C25H40N4O4S
